US08304419B2
Step D: N-({3-[(5-bromo-4-fluoro-2-nitrophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)-4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide
To a solution of ({3-[(5-bromo-4-fluoro-2-nitrophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)amine (690 mg, 1.454 mmol), 4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxylic acid (403 mg, 1.454 mmol) and HOBT (267 mg, 1.745 mmol) in DMF (4 ml) was added EDC (335 mg, 1.745 mmol) and the reaction mixture was stirred at RT for 45 minutes. The reaction mixture was diluted with EtOAc and washed with water. The solvent was removed and the crude material (942 mg) was used directly in the next step. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.77 (t, 1H), 8.32 (d, 1H), 7.98 (s, 1H), 7.45-7.56 (m, 1H), 7.41 (t, 1H), 7.31 (d, 1H), 5.49 (s, 2H), 4.48 (d, 2H), 3.38 (t, 2H), 0.74 (t, 2H), −0.09 (s, 9H).

reactant | ({3-[(5-bromo-4-fluoro-2-nitrophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)amine | 1.454 mmol, 690 mg | BrC=1C(=CC(=C(C1)OC=1C(=C(C=CC1Cl)CN)F)[N+](=O)[O-])F | C13H8BrClF2N2O3
reactant | 4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxylic acid | 1.454 mmol, 403 mg | ClC=1N=CN(C1C(=O)O)COCC[Si](C)(C)C | C10H17ClN2O3Si
reactant | HOBT | 1.745 mmol, 267 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 1.745 mmol, 335 mg
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-({3-[(5-bromo-4-fluoro-2-nitrophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)-4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | BrC=1C(=CC(=C(C1)OC=1C(=C(C=CC1Cl)CNC(=O)C1=C(N=CN1COCC[Si](C)(C)C)Cl)F)[N+](=O)[O-])F | C23H23BrCl2F2N4O5Si
